US05097016
To a solution of 20 g of poly (γ-butyl D-glutamate) (molecular weight 42,000, average degree of polymerization 230) prepared by the NCA method were added 150 ml of n-dodecyl alcohol and 5 g of p-toluenesulfonic acid. The mixture was allowed to react at 60° C. for 20 hours. The reaction mixture was treated in the same way as in Reference Example 1 to obtain a γ-butyl L-glutamate-γ-dodecyl L-glutamate copolymer. Ratio of the butyl ester to the dodecyl ester in the copolymer was 40:60 by NMR measurement.

reactant | γ-butyl D-glutamate | N[C@H](CCC(=O)[O-])C(=O)OC(CC)C
reactant | p-toluenesulfonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-dodecyl alcohol | 150 ml | C(CCCCCCCCCCC)O | C12H26O
product | γ-butyl L-glutamate γ-dodecyl L-glutamate | N[C@@H](CCC(=O)[O-])C(=O)OC(CC)C.N[C@@H](CCC(=O)[O-])C(=O)OC(CC)CCCCCCCCC | InChI=1S/C17H33NO4.C9H17NO4/c1-3-5-6-7-8-9-10-11-14(4-2)22-17(21)15(18)12-13-16(19)20;1-3-6(2)14-9(13)7(10)4-5-8(11)12/h14-15H,3-13,18H2,1-2H3,(H,19,20);6-7H,3-5,10H2,1-2H3,(H,11,12)/p-2/t14?,15-;6?,7-/m00/s1
